US07919506B2
2-(1-methoxycycloheptyl)-5-(trifluoromethyl)benzaldehyde
To a solution of (2-(1-methoxycycloheptyl)-5-(trifluoromethyl)phenyl)methanol (167 mg; 0.552 mmol) in methylene chloride (3.0 mL) was added Dess-Martin reagent (290 mg; 0.683 mmol). Reaction was stirred at room temperature for 5 hours. The reaction was diluted with ethyl acetate and quenched with aqueous 1N sodium hydroxide. After partitioning off the aqueous layer, the organic layer was washed with water and brine. It was dried over sodium sulfate and concentrated under reduced pressure. The residue was purified over a Bakerbond 1 g silica cartridge (Mallinkrodt Baker Inc. Phillipsburg, N.J.) (eluted with 0-5% heptane) to yield 167 mg of a cloudy oil. 1H NMR (400 MHz, CDCl3) δ ppm 10.91 (s, 1H), 811 (d, J=2.07 Hz, 1H), 7.73 (dd, J=8.71, 8.30 Hz, 1H), 7.48 (d, J=7.88 Hz, 1H), 2.96 (s, 3H), 2.25 (m, 2H), 2.09 (m, 2H), 1.94-1.57 (m, 8H).

reactant | (2-(1-methoxycycloheptyl)-5-(trifluoromethyl)phenyl)methanol | 0.552 mmol, 167 mg | COC1(CCCCCC1)C1=C(C=C(C=C1)C(F)(F)F)CO | C16H21F3O2
reactant | Dess-Martin reagent | 0.683 mmol, 290 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | methylene chloride | 3.0 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(1-methoxycycloheptyl)-5-(trifluoromethyl)benzaldehyde | COC1(CCCCCC1)C1=C(C=O)C=C(C=C1)C(F)(F)F | C16H19F3O2
